US04898455
10 ml of 3N sulphuric acid were treated while stirring with 1.8 g of p-(5-octyl-2-pyridyl)aniline. The mixture was cooled to 5° C. and then treated dropwise at 0°-5° C. within about 3 minutes with a solution of 0.442 g of sodium nitrite in 2 ml of water. The brown mixture obtained was poured into 100 ml of water and heated to reflux for 30 minutes while stirring. The reaction mixture was subsequently cooled to room temperature, adjusted to about pH 5 with 7 ml of 3N sodium hydroxide solution and extracted once with 200 ml of methylene chloride and once with 100 ml of methylene chloride. The organic phases were washed with 150 ml of dilute sodium chloride solution, dried over sodium sulphate and evaporated in a vacuum. The residue (1.867 g) was separated by chromatography on 250 g of silica gel at 0.4 bar with methylene chloride and methylene chloride/acetone. Recrystallization of the resulting red-brown oil in diethyl ether/hexane at 0° C. gave 0.635 g of p-(5-octyl-2-pyridyl)phenol as beige crystals. Working-up of the mother liquor gave 0.355 g of crude p-(5-octyl-2-pyridyl)phenol as a brown oil.

reactant | sulphuric acid | 3N, 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | p-(5-octyl-2-pyridyl)aniline | 1.8 g | C(CCCCCCC)C=1C=CC(=NC1)C1=CC=C(N)C=C1 | C19H26N2
reactant | sodium nitrite | 0.442 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 3N, 7 ml | [OH-].[Na+]
solvent | water | 2 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | p-(5-octyl-2-pyridyl)phenol | 0.635 g | C(CCCCCCC)C=1C=CC(=NC1)C1=CC=C(C=C1)O | C19H25NO
